** Name: SimpleTwoStageOpAmp_SimpleOpAmp10_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp10_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=6e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=23e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=348e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=39e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=28e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=7e-6 W=169e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=13e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=348e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=12e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=56e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=13e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=109e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=23e-6
mNormalTransistorPmos14 outFirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=3e-6 W=170e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=248e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=327e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=7e-6 W=169e-6
Capacitor1 outFirstStage out 6.5e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp10_9

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 14.9141 mW
** Area: 6355 (mu_m)^2
** Transit frequency: 15.2271 MHz
** Transit frequency with error factor: 15.2146 MHz
** Slew rate: 27.2344 V/mu_s
** Phase margin: 65.3172°
** CMRR: 95 dB
** negPSRR: 95 dB
** posPSRR: 89 dB
** VoutMax: 4.25 V
** VoutMin: 0.990001 V
** VcmMax: 4.09001 V
** VcmMin: 0.930001 V


** Expected Currents: 
** NormalTransistorNmos: 19.7981 muA
** NormalTransistorNmos: 93.4731 muA
** NormalTransistorPmos: -163.238 muA
** DiodeTransistorPmos: -89.1699 muA
** NormalTransistorPmos: -89.1699 muA
** NormalTransistorPmos: -89.1699 muA
** NormalTransistorNmos: 178.339 muA
** NormalTransistorNmos: 89.1691 muA
** NormalTransistorNmos: 89.1691 muA
** NormalTransistorNmos: 2518.05 muA
** DiodeTransistorNmos: 2518.05 muA
** NormalTransistorPmos: -2518.04 muA
** DiodeTransistorNmos: 163.239 muA
** NormalTransistorNmos: 163.239 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -19.7989 muA
** DiodeTransistorPmos: -93.4739 muA


** Expected Voltages: 
** ibias: 0.647001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.39201  V
** outSourceVoltageBiasXXnXX1: 0.696001  V
** outVoltageBiasXXpXX0: 4.06101  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.98201  V
** innerTransistorStack2Load1: 4.54601  V
** sourceTransconductance: 1.80901  V
** inner: 0.696001  V


.END