** Name: SimpleTwoStageOpAmp_SimpleOpAmp11_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp11_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=13e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=577e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=114e-6
mDiodeTransistorPmos5 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=2e-6 W=250e-6
mDiodeTransistorPmos6 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 sourcePmos sourcePmos pmos4 L=2e-6 W=86e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=68e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=577e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=6e-6
mNormalTransistorNmos10 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=68e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=78e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=13e-6
mNormalTransistorPmos13 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=250e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=272e-6
mNormalTransistorPmos15 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=571e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack1Load1 sourcePmos sourcePmos pmos4 L=2e-6 W=86e-6
Capacitor1 outFirstStage out 4.40001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp11_9

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 14.9951 mW
** Area: 10504 (mu_m)^2
** Transit frequency: 21.0901 MHz
** Transit frequency with error factor: 21.073 MHz
** Slew rate: 34.2619 V/mu_s
** Phase margin: 65.3172°
** CMRR: 103 dB
** negPSRR: 93 dB
** posPSRR: 89 dB
** VoutMax: 4.25 V
** VoutMin: 0.880001 V
** VcmMax: 3.77001 V
** VcmMin: 0.880001 V


** Expected Currents: 
** NormalTransistorNmos: 12.0791 muA
** NormalTransistorPmos: -61.2009 muA
** DiodeTransistorPmos: -76.9599 muA
** DiodeTransistorPmos: -76.9609 muA
** NormalTransistorPmos: -76.9599 muA
** NormalTransistorPmos: -76.9609 muA
** NormalTransistorNmos: 153.92 muA
** NormalTransistorNmos: 76.9591 muA
** NormalTransistorNmos: 76.9591 muA
** NormalTransistorNmos: 2761.73 muA
** DiodeTransistorNmos: 2761.73 muA
** NormalTransistorPmos: -2761.72 muA
** DiodeTransistorNmos: 61.2001 muA
** NormalTransistorNmos: 61.2001 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -12.0799 muA


** Expected Voltages: 
** ibias: 0.622001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.28401  V
** outSourceVoltageBiasXXnXX1: 0.642001  V
** outVoltageBiasXXpXX0: 4.19201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 3.36801  V
** innerTransistorStack1Load1: 4.11801  V
** innerTransistorStack2Load1: 4.11701  V
** sourceTransconductance: 1.83601  V
** inner: 0.642001  V


.END