** Name: SimpleTwoStageOpAmp_SimpleOpAmp12_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp12_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=62e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=46e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=8e-6 W=480e-6
mNormalTransistorNmos5 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=163e-6
mNormalTransistorNmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=14e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=35e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=304e-6
mNormalTransistorNmos9 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=14e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=24e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=424e-6
mNormalTransistorPmos13 outFirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=8e-6 W=48e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=597e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=8e-6 W=134e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=8e-6 W=134e-6
mNormalTransistorPmos17 FirstStageYinnerSourceLoad1 outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=8e-6 W=48e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp12_8

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 14.2551 mW
** Area: 14577 (mu_m)^2
** Transit frequency: 13.2941 MHz
** Transit frequency with error factor: 13.2826 MHz
** Slew rate: 20.4511 V/mu_s
** Phase margin: 65.8902°
** CMRR: 100 dB
** negPSRR: 102 dB
** posPSRR: 91 dB
** VoutMax: 4.31001 V
** VoutMin: 0.730001 V
** VcmMax: 5.12001 V
** VcmMin: 0.870001 V


** Expected Currents: 
** NormalTransistorNmos: 70.4611 muA
** NormalTransistorNmos: 599.887 muA
** NormalTransistorPmos: -915.472 muA
** NormalTransistorPmos: -23.6809 muA
** NormalTransistorPmos: -23.6819 muA
** NormalTransistorPmos: -23.6809 muA
** NormalTransistorPmos: -23.6819 muA
** NormalTransistorNmos: 47.3601 muA
** NormalTransistorNmos: 23.6801 muA
** NormalTransistorNmos: 23.6801 muA
** NormalTransistorNmos: 1207.91 muA
** NormalTransistorNmos: 1207.91 muA
** NormalTransistorPmos: -1207.9 muA
** DiodeTransistorNmos: 915.473 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -70.4619 muA
** DiodeTransistorPmos: -599.886 muA


** Expected Voltages: 
** ibias: 0.622001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.74101  V
** outVoltageBiasXXnXX1: 1.13201  V
** outVoltageBiasXXpXX0: 3.71601  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.15401  V
** innerTransistorStack1Load1: 4.71801  V
** innerTransistorStack2Load1: 4.71801  V
** sourceTransconductance: 1.84901  V
** innerStageBias: 0.217001  V


.END