** Name: SimpleTwoStageOpAmp_SimpleOpAmp1_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp1_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX0 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=32e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=225e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=7e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=143e-6
mNormalTransistorNmos5 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=336e-6
mNormalTransistorNmos6 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=225e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX1 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=339e-6
mNormalTransistorPmos8 out outVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=411e-6
mNormalTransistorPmos9 inputVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=94e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=411e-6
mNormalTransistorPmos11 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=411e-6
mNormalTransistorPmos12 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=372e-6
mNormalTransistorPmos13 SecondStageYinnerStageBias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=599e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 7.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp1_3

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 14.9801 mW
** Area: 12365 (mu_m)^2
** Transit frequency: 20.0021 MHz
** Transit frequency with error factor: 19.9371 MHz
** Slew rate: 47.9768 V/mu_s
** Phase margin: 65.3172°
** CMRR: 89 dB
** negPSRR: 91 dB
** posPSRR: 117 dB
** VoutMax: 4.26001 V
** VoutMin: 0.170001 V
** VcmMax: 3.5 V
** VcmMin: 0.0100001 V


** Expected Currents: 
** NormalTransistorNmos: 1451.94 muA
** NormalTransistorPmos: -136.418 muA
** DiodeTransistorNmos: 265.43 muA
** NormalTransistorNmos: 265.43 muA
** NormalTransistorPmos: -530.858 muA
** NormalTransistorPmos: -265.428 muA
** NormalTransistorPmos: -265.428 muA
** NormalTransistorNmos: 856.76 muA
** NormalTransistorPmos: -856.759 muA
** NormalTransistorPmos: -856.76 muA
** DiodeTransistorNmos: 136.419 muA
** DiodeTransistorPmos: -1451.93 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.03501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX0: 0.906001  V
** out: 2.5  V
** outFirstStage: 0.578001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.572001  V
** sourceTransconductance: 3.59901  V
** innerStageBias: 4.59001  V


.END