** Name: SimpleTwoStageOpAmp_SimpleOpAmp37_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp37_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=157e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=185e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=295e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=190e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=600e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=16e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=200e-6
mNormalTransistorNmos9 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=16e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=16e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=5e-6 W=43e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=155e-6
mNormalTransistorPmos13 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=5e-6 W=99e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=436e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad1 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=5e-6 W=99e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=5e-6 W=89e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=5e-6 W=89e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp37_7

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 12.9691 mW
** Area: 10712 (mu_m)^2
** Transit frequency: 14.0751 MHz
** Transit frequency with error factor: 14.0671 MHz
** Slew rate: 13.4631 V/mu_s
** Phase margin: 65.3172°
** CMRR: 106 dB
** negPSRR: 100 dB
** posPSRR: 95 dB
** VoutMax: 4.34001 V
** VoutMin: 0.260001 V
** VcmMax: 5.18001 V
** VcmMin: 1.43001 V


** Expected Currents: 
** NormalTransistorNmos: 392.381 muA
** NormalTransistorNmos: 372.762 muA
** NormalTransistorPmos: -586.3 muA
** NormalTransistorPmos: -15.6959 muA
** NormalTransistorPmos: -15.6969 muA
** NormalTransistorPmos: -15.6959 muA
** NormalTransistorPmos: -15.6969 muA
** NormalTransistorNmos: 31.3901 muA
** NormalTransistorNmos: 31.3911 muA
** NormalTransistorNmos: 15.6951 muA
** NormalTransistorNmos: 15.6951 muA
** NormalTransistorNmos: 1200.92 muA
** NormalTransistorPmos: -1200.91 muA
** DiodeTransistorNmos: 586.301 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -392.38 muA
** DiodeTransistorPmos: -372.761 muA


** Expected Voltages: 
** ibias: 0.670001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 3.77501  V
** outVoltageBiasXXnXX1: 0.877001  V
** outVoltageBiasXXpXX0: 3.82301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.21301  V
** innerStageBias: 0.265001  V
** innerTransistorStack1Load1: 4.46001  V
** innerTransistorStack2Load1: 4.46001  V
** sourceTransconductance: 1.94301  V


.END