** Name: SimpleTwoStageOpAmp_SimpleOpAmp43_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp43_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=30e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=35e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=58e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=51e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=382e-6
mNormalTransistorNmos6 outFirstStage inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=34e-6
mNormalTransistorNmos7 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=34e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=77e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=77e-6
mNormalTransistorNmos10 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=599e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=5e-6 W=383e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=438e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=51e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=103e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=103e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=5e-6 W=562e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp43_8

** Expected Performance Values: 
** Gain: 79 dB
** Power consumption: 7.66201 mW
** Area: 9525 (mu_m)^2
** Transit frequency: 13.0471 MHz
** Transit frequency with error factor: 13.0006 MHz
** Slew rate: 42.2022 V/mu_s
** Phase margin: 69.328°
** CMRR: 84 dB
** VoutMax: 4.46001 V
** VoutMin: 0.740001 V
** VcmMax: 3.70001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -66.6619 muA
** NormalTransistorNmos: 97.5571 muA
** NormalTransistorNmos: 146.658 muA
** NormalTransistorNmos: 97.5571 muA
** NormalTransistorNmos: 146.658 muA
** DiodeTransistorPmos: -97.5579 muA
** NormalTransistorPmos: -97.5579 muA
** NormalTransistorPmos: -98.1969 muA
** NormalTransistorPmos: -49.0989 muA
** NormalTransistorPmos: -49.0989 muA
** NormalTransistorNmos: 1152.4 muA
** NormalTransistorNmos: 1152.4 muA
** NormalTransistorPmos: -1152.39 muA
** DiodeTransistorNmos: 66.6611 muA
** DiodeTransistorNmos: 66.6621 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.21601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.12201  V
** out: 2.5  V
** outFirstStage: 3.89101  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 3.86701  V
** sourceGCC1: 0.532001  V
** sourceGCC2: 0.532001  V
** sourceTransconductance: 3.57801  V
** innerStageBias: 0.528001  V


.END